US04927928
A mixture of methylene cyclohexane (0.96 g, 10 mmoles), p-bromophenol (1.73 g, 10 mmoles) and acid resin (Dowex 50x12-150 mg) is heated at 80° C. for 16 hours. The residue is purified by silica gel chromatography (eluant: 50/50 mixture of CH2Cl2 /hexane). On evaporation of the solvents 0.50 g (19% yield) of 4-bromo-2-(1-methylcyclohexyl) phenol in the form of a yellowish oil is obtained.

reactant | methylene cyclohexane | 10 mmoles, 0.96 g | C=C1CCCCC1 | C7H12
reactant | p-bromophenol | 10 mmoles, 1.73 g | C1=CC(=CC=C1O)Br | C6H5BrO
product | 4-bromo-2-(1-methylcyclohexyl) phenol | 0.50 g, 19% yield | BrC1=CC(=C(C=C1)O)C1(CCCCC1)C | C13H17BrO
